US05703070
2-(5-Methoxyindol-3-yl)ethanol
A solution of 15 g of (5-methoxyindol-3-yl)acetic acid (0.073 mol) in 100 ml of tetrahydrofuran is added to a suspension of 2.1 g (0.219 mol) of lithium aluminum hydride in 100 ml of ethyl ether and the reaction mixture is brought to reflux for 6 hours. The reaction mixture is then hydrolyzed with 80 ml of a saturated aqueous magnesium sulfate solution. The whole mixture is filtered through celite and the solvents are evaporated under vacuum. The residue is taken up in a small amount of water and extracted a number of times with dichloromethane. The product is obtained after evaporation of the solvant.

reactant | (5-methoxyindol-3-yl)acetic acid | 0.073 mol, 15 g | COC=1C=C2C(=CNC2=CC1)CC(=O)O | C11H11NO3
reactant | lithium aluminum hydride | 0.219 mol, 2.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | magnesium sulfate | 80 ml | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ethyl ether | 100 ml | C(C)OCC | C4H10O
product | 2-(5-Methoxyindol-3-yl)ethanol | COC=1C=C2C(=CNC2=CC1)CCO | C11H13NO2
